data/pmechdb/original/mc_train_fold0/raw/train.txt
CC1C[CH+:20][CH2:10][Si-:11]2(O1)(N(CCN2C)C)Cl>>CC(C[CH:20]=[CH2:10])O[Si:11]1(N(CCN1C)C)Cl 10,11=10,20
CCCCCC1CC(C([CH:20](C1)[O:21]S(=O)(=O)C2=CC=C(C=C2)C)OC(=[O:10])C)CCCCC>>CCCCCC1CC(C2[CH:20](C1)[O+:10]=C(O2)C)CCCCC.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
CCC(CC1CCCCC1)C(CC(=[O+][Si:20](C)(C)C)OC(C)(C)C)[O-:10].Cl[Ti](Cl)(Cl)Cl>>CCC(CC1CCCCC1)C2CC(=[O+][Si-:20](C)(C)(C)[O:10]2)OC(C)(C)C.Cl[Ti](Cl)(Cl)Cl 10=20
C[O:20][O:21]C.C[P:10](C)C>>C[O-:21].C[O:20][P+:10](C)(C)C 10=20;20,21=21
[H:20][O:21]C.CC(C)[O-:10]>>[H:20][O:10]C(C)C.C[O-:21] 10=20;20,21=21
[B:20](F)(F)F.CC(=[O:10])C1=CC(=CC=C1)C#N.CCOCC.C(CO)O>>[B-:20]([O+:10]=C(C)C1=CC(=CC=C1)C#N)(F)(F)F.CCOCC.C(CO)O 10=20,
[H:20][O+:21]=C(C)C#N.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(=[O:21])C#N 10=20;20,21=21
CC[C:22](=[OH+:23])[CH:21]=[CH2:20].C[C:10]1=[C:11](CCC1=O)[OH:12].CC(=O)[O-]>>CC[C:22](=[CH:21][CH2:20][C:10]1([C:11](=[OH+:12])CCC1=O)C)[OH:23].CC(=O)[O-] 10,11=10,20;12=11;22,23=23;20,21=21,22
CCO[C:20](=[O:21])CC[C:11](=[CH2:10])[O-:12]>>CCO[C:20]1(CC[C:11](=[O:12])[CH2:10]1)[O-:21] 10,11=10,20;20,21=21;12=11
[H:20][O+:21](CCO)C(CC(=O)OCC)(CC(=O)OCC)O.CC1=CC=C(C=C1)S(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.CCOC(=O)CC(CC(=O)OCC)(O)[O:21]CCO 10=20;20,21=21
[H:20][O:21]C(C)C(C)C.[C-:10](Br)(Br)Br.C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br>>[H:20][C:10](Br)(Br)Br.CC(C)C(C)[O-:21].C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br 10=20;20,21=21
[H:20][OH2+:21].CC(=O)CC[CH:10]=[C:11]([O-:12])OC>>[H:20][CH:10](CCC(=O)C)[C:11](=[O:12])OC.[OH2:21] 10,11=10,20;20,21=21;12=11
CS(=O)(=O)C1=CC=C(C=C1)C2=CC=C(C=C2)[N:10]=[N:20][OH2+:21].O.[O-]S(=O)(=O)[O-].[Na+]>>CS(=O)(=O)C1=CC=C(C=C1)C2=CC=C(C=C2)[N+:10]#[N:20].[OH2:21].O.[O-]S(=O)(=O)[O-].[Na+] 10=20;20,21=21
[H:20][OH:21].CC(=C(C1C(C(C(C(O1)CO)O)O)O)C(=O)C)[O-:10].[Na+]>>[H:20][O:10]C(=C(C1C(C(C(C(O1)CO)O)O)O)C(=O)C)C.[OH-:21].[Na+] 10=20;20,21=21
CN(C)[Si:20](C)(C)C.[Cl-:10]>>CN(C)[Si-:20](C)(C)(C)[Cl:10] 10=20,
CC1=CC=C(C=C1)S(=O)(=O)OC(C)CCO[Si-:10](C)(C)(C)[Cl:11]>>CC1=CC=C(C=C1)S(=O)(=O)OC(C)CCO[Si:10](C)(C)C.[Cl-:11] 10,11=11
[H:10][BH3-:11].CC1(OC(C(O1)C(C=O)OCC2=CC=CC=C2)C([CH:20]=[O:21])OCC3=CC=CC=C3)C.CO.C(=O)(C(F)(F)F)[O-].[Na+]>>[H:10][CH:20](C(C1C(OC(O1)(C)C)C(C=O)OCC2=CC=CC=C2)OCC3=CC=CC=C3)[O-:21].[BH3:11].CO.C(=O)(C(F)(F)F)[O-].[Na+] 10,11=10,20;20,21=21
[H:20][OH2+:21].C(=[O:10])S>>[H:20][O+:10]=CS.[OH2:21] 10=20;20,21=21
[H:10][CH:11](C)[CH2+:20]>>[H:10][CH2:20][CH+:11]C 10,11=10,20
CCOC(=O)N[N:10]([C:20](=[OH+:21])OCC)[P:11](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OCC4=C(C(=C5C(=C4)C=C(C=C5OC)OC)OC)Br.COC1=CC(=C2C(=C1)C=C(C(=C2OC)C(=O)[O-])OCC3=CC=CC=C3)OC>>CCOC(=O)N[N:10]=[C:20]([OH:21])OCC.COC1=CC2=CC(=C(C(=C2C(=C1)OC)OC)Br)CO[P+:11](C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5.COC1=CC(=C2C(=C1)C=C(C(=C2OC)C(=O)[O-])OCC3=CC=CC=C3)OC 10,11=10,20;20,21=21
CC1=C(S[C:21](=[N+]1CC2=CC=CC=C2)[C:20](C3=CC=CS3)(C(CC(=O)C4=CC=CS4)C5=CC6=C(C=C5)OCO6)[O-:10])CCO.CC[NH+](CC)CC.CC(C)O.[Cl-]>>CC1=C(S[C-:21]=[N+]1CC2=CC=CC=C2)CCO.C1OC2=C(O1)C=C(C=C2)C(CC(=O)C3=CC=CS3)[C:20](=[O:10])C4=CC=CS4.CC[NH+](CC)CC.CC(C)O.[Cl-] 10=20;20,21=21
[H:20][O+:21](CC1=CC(C2(C1(COC2=O)C)C)O[Si](C)(C)C(C)(C)C)C(C)(OCC)OCC.CC(C)(C)C(=O)[O-:10].CCO>>[H:20][O:10]C(=O)C(C)(C)C.CCOC(C)(OCC)[O:21]CC1=CC(C2(C1(COC2=O)C)C)O[Si](C)(C)C(C)(C)C.CCO 10=20;20,21=21
[H:20][O:21]C(C1=CC=CC=C1)(C(CC(=O)C2=[N+](C=CN2C3=C(C=CC=C3C(C)C)C(C)C)C4=C(C=CC=C4C(C)C)C(C)C)C5=CC=CC=C5)C(F)(F)F.CC(C)(C)[O-:10]>>[H:20][O:10]C(C)(C)C.CC(C)C1=C(C(=CC=C1)C(C)C)N2C=C[N+](=C2C(=O)CC(C3=CC=CC=C3)C(C4=CC=CC=C4)(C(F)(F)F)[O-:21])C5=C(C=CC=C5C(C)C)C(C)C 10=20;20,21=21
[H:20][OH2+:21].C=CCC[O-:10]>>[H:20][O:10]CCC=C.[OH2:21] 10=20;20,21=21
CNC(=O)CC1(CC[C:11](=[CH:10][CH:20]1[OH:21])[O-:12])C2=CC(=C(C=C2)OC)OC.C[NH3+]>>CNC(=O)CC1(CC[C:11](=[O:12])[CH:10]=[CH:20]1)C2=CC(=C(C=C2)OC)OC.[OH-:21].C[NH3+] 10,11=10,20;20,21=21;12=11
[H:20][O:21]C(=O)CCCC=C(F)F.CCOC(=O)[N-:10]N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC2=C(C=C1)C=C(C=C2)CO>>[H:20][N:10](C(=O)OCC)N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.C(CC=C(F)F)CC(=O)[O-:21].C1=CC2=C(C=C1)C=C(C=C2)CO 10=20;20,21=21
[H:20][O+:21](CC)C(C)(O)Cl.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[O:21]C(C)(O)Cl 10=20;20,21=21
C[S+](C)[CH2-:10].[CH2:20]=[O:21]>>C[S+](C)[CH2:10][CH2:20][O-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCN(CC)C(=[O:10])C=C>>[H:20][O+:10]=C(C=C)N(CC)CC.OS(=O)(=O)[O-:21] 10=20;20,21=21
[B-]([OH+:21][C:20]1(CC=C([O:10]1)C2=CC=C(C=C2)C(C)(C)C)C3=CC=C(C=C3)C(C)(C)C)(F)(F)F.CCOCC>>[B-]([OH:21])(F)(F)F.CC(C)(C)C1=CC=C(C=C1)[C:20]2=[O+:10]C(=CC2)C3=CC=C(C=C3)C(C)(C)C.CCOCC 10=20;20,21=21
[H:20][CH:21]1C2=C(C=CC=C2)[NH+:23]=[C:22]1CCC(CC)(CCCNC(=O)CCl)C=O.C(=O)(C(F)(F)F)[O-:10].O>>[H:20][O:10]C(=O)C(F)(F)F.CCC(CCCNC(=O)CCl)(CC[C:22]1=[CH:21]C2=C([NH:23]1)C=CC=C2)C=O.O 10=20;22,23=23;20,21=21,22
